US08664210B2
A mixture of dihydrotestosterone (1.00 g), 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) or SELECTFLUOR® (1.92 g) in i-PrOH (35 ml) was refluxed for 18 h. After cooling, the resulting precipitate was filtered and the organic phase was washed with H2O and brine, dried over Na2SO4 and was evaporated to dryness. The crude reaction mixture was purified by flash chromatography (SiO2, n-hexane/acetone/EOAc 75/12.5/12.5) to give 4α-fluoro-17β-hydroxyandrostan-3-one (43 mg, 4% yield).

reactant | dihydrotestosterone | 1.00 g | C[C@]12CCC(=O)C[C@@H]1CC[C@@H]3[C@@H]2CC[C@]4([C@H]3CC[C@@H]4O)C | C19H30O2
reactant | 1-chloromethyl-4-fluoro-1,4-diazoniabicyclo[2.2.2]octane bis(tetrafluoroborate) | F[B-](F)(F)F.F[B-](F)(F)F.ClC[N+]12CC[N+](CC1)(CC2)F
reactant | SELECTFLUOR | [B-](F)(F)(F)F.[B-](F)(F)(F)F.C1C[N+]2(CC[N+]1(CC2)CCl)F
solvent | i-PrOH | 35 ml | CC(C)O | C3H8O
product | 4α-fluoro-17β-hydroxyandrostan-3-one | 43 mg, 4% yield | F[C@H]1C2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CCC1=O)C)O | C19H29FO2
